US09340538B2
Step C: 4-((5-(ethoxycarbonyl)-6-(2-nitrophenyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
A mixture of ethyl 6-(bromomethyl)-4-(2-nitrophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (2.4 g, 5.3 mmol), morpholine-3-carboxylic acid hydrochloride (0.9 g, 5.37 mmol) and potassium carbonate (1.48 g, 10.74 mmol) in ethanol (60 mL) was stirred at 25° C. for 12 hours. The mixture was filtered and the filtrate was concentrated in vacuo. The residue was purified by a silica gel column chromatography (DCM/MeOH (V/V)=25/1) to give the title compound as a light yellow solid (1.1 g, 41%). The compound was characterized by the following spectroscopic data:

reactant | ethyl 6-(bromomethyl)-4-(2-nitrophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 5.3 mmol, 2.4 g | BrCC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC | C17H15BrN4O4S
reactant | morpholine-3-carboxylic acid hydrochloride | 5.37 mmol, 0.9 g | Cl.N1C(COCC1)C(=O)O
reactant | potassium carbonate | 10.74 mmol, 1.48 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | 4-((5-(ethoxycarbonyl)-6-(2-nitrophenyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 1.1 g, 41% | C(C)OC(=O)C1=C(NC(=NC1C1=C(C=CC=C1)[N+](=O)[O-])C=1SC=CN1)CN1C(COCC1)C(=O)O | C22H23N5O7S
